US09109057B2
In a dry Parr 300 ml stainless autoclave equipped with mechanical stirrer, 75 ml of toluene, 11.8 ml of 1-octene, 0.2 ml of 1,7-octadiene and 5 ml MAO solution (methylaluminoxane, 10 wt % in toluene) were mixed at 60° C. After purging with ethylene gas, about 1 μmol of rac-Me2Si[2-Me-4-Ph(ind)2ZrCl2] catalyst diluted in 3 ml toluene was then syringed into the rapidly stirring solution under ethylene pressure to initiate the polymerization. After 3 minutes of reaction at 60° C. and under 220 psi pressure of ethylene gas, the polymer solution was quenched with methanol. The resulting product was washed with HCl/methanol (0.5M) and methanol each for 3 times, then vacuum-dried at 60° C. About 3.06 g of ethylene/1-octene/1,7-octadiene terpolymer was obtained with a catalyst activity of 61.2 Kg(PE)/mmol Zr/h. Before absorption measurements, the resulting polymer was subjected to a vigorous solvent extraction by refluxing toluene for 36 hours to remove any soluble fraction that was not fully cross-linked into the network structure. The soluble fraction was weight to calculate the data of gel content (insoluble fraction). The resulting ethylene/1-octene/1,7-octadiene terpolymer polymer from this reaction was not completely cross-linked, with only 40% insoluble fraction, as shown in Table 5.

reactant | 1-octene | 11.8 ml | C=CCCCCCC | C8H16
reactant | 1,7-octadiene | 0.2 ml | C=CCCCCC=C | C8H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | ethylene/1-octene 1,7-octadiene | 3.06 g | C=C.C=CCCCCCC.C=CCCCCC=C | InChI=1S/C8H16.C8H14.C2H4/c2*1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;3-4H,1-2,5-8H2;1-2H2
